US09399643B2
Synthesis of methyl 3-allyl-1,2,3,4,5,6-hexahydroazepino[4,5-b]indole-5-carboxylate
A 72 L three-necked mechanically stirred round bottomed flask was set up with a reflux condenser. To the flask was charged dry tetrahydrofuran (10 L), and methyl 1,2,3,4,5,6-hexahydroazepino[4,5-b]indole-5-carboxylate (800 g, 3.27 mol). The mixture was stirred, and tetrabutylammonium bromide (21.1 g, 0.06 mol), anhydrous potassium carbonate (1.13 kg, 8.8 mol), and allyl bromide (29.7 mL, 396 g, 3.27 mol) were added sequentially in one lot each. After addition, the mixture was stirred at about 20° C. for 2.5 days. The mixture was diluted with (10 L) hexanes, filtered, and transferred to a separatory funnel. The solution was washed with water (2 L), saturated sodium chloride (1 L), dried over sodium sulfate, filtered, then concentrated to a dark green-brown oil (770 g), methyl 3-allyl-1,2,3,4,5,6-hexahydroazepino[4,5-b]indole-5-carboxylate, suitably clean to be used in the next synthetic step. Yield=83%. TLC (EtOH/CH2Cl2, 1:9): Rf=0.7; 1H NMR (400 MHz, CDCl3): δ 2.79-2.86 (m, 1H), 2.90-3.09 (m, 4H), 3.28-3.43 (m, 3H), 3.78 (s, 3H), 4.02 (dd, J=1.6, 6.8 Hz, 1H), 5.23 (d, J=10.4 Hz, 1H), 5.27 (dd, J=1.4, 17 Hz, 1H), 5.90-6.00 (m, 1H), 7.11-7.19 (m, 2H), 7.29 (d, J=7.6 Hz, 1H), 7.53 (d, J=7.2 Hz, 1H), 8.40 (bs, 1H); 13C NMR (100 MHz, CDCl3): δ 24.1, 45.4, 52.2, 55.7, 56.9, 61.4, 110.7, 113.8, 117.5, 118.0, 119.2, 121.4, 128.4, 132.1, 134.7, 135.7, 172.5; melting point: 105-108° C. (uncorrected).

reactant | methyl 1,2,3,4,5,6-hexahydroazepino[4,5-b]indole-5-carboxylate | 3.27 mol, 800 g | C1CNCC(C=2NC=3C=CC=CC3C21)C(=O)OC | C14H16N2O2
reactant | potassium carbonate | 8.8 mol, 1.13 kg | C([O-])([O-])=O.[K+].[K+]
reactant | allyl bromide | 3.27 mol, 29.7 mL, 396 g | C(C=C)Br | C3H5Br
catalyst | tetrabutylammonium bromide | 0.06 mol, 21.1 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 10 L | O1CCCC1 | C4H8O
product | methyl 3-allyl-1,2,3,4,5,6-hexahydroazepino[4,5-b]indole-5-carboxylate | Yield=83% | C(C=C)N1CC(C=2NC=3C=CC=CC3C2CC1)C(=O)OC | C17H20N2O2
